US07067658B2
2-Benzyloxy-4-chloro-3-nitro-pyridine (Wilde, et. al. WO 99/01454) (924 mg, 3.49 mmol) and 2-chloro-5-methyl-4-methoxyphenylboronic acid (prepared substantially as described in Speicher, A.; Kolz, J.; Sambanje, R. P. Synthesis, 2002, 17, 2503) (770 mg, 3.84 mmol) were treated substantially as described in Part A of Example 19a to give 514 mg (39%) of 2-benzyloxy-4-(2-chloro-4-methoxy-5-methyl-phenyl)-3-nitro-pyridine: 1H NMR (400 MHz, CDCl3) δ ppm 8.27 (d, J=5.4 Hz, 1 H), 7.47–7.44 (m, 2H), 7.40–7.30 (m, 3H), 7.00 (s, 1H), 6.94 (d, J=5.4 Hz, 1 H), 6.90 (s, 1 H), 5.55 (s, 2 H), 3.84 (s, 3 H), 2.17 (s, 3 H).

reactant | 2-Benzyloxy-4-chloro-3-nitro-pyridine | 3.49 mmol, 924 mg | C(C1=CC=CC=C1)OC1=NC=CC(=C1[N+](=O)[O-])Cl | C12H9ClN2O3
reactant | 2-chloro-5-methyl-4-methoxyphenylboronic acid | ClC1=C(C=C(C(=C1)OC)C)B(O)O | C8H10BClO3
product | 2-benzyloxy-4-(2-chloro-4-methoxy-5-methyl-phenyl)-3-nitro-pyridine | 514 mg, 39% | C(C1=CC=CC=C1)OC1=NC=CC(=C1[N+](=O)[O-])C1=C(C=C(C(=C1)C)OC)Cl | C20H17ClN2O4
